US07576092B2
Step G: 2,8-Dichloro-4-(4-methyl-piperazin-1-yl)-benzo[4,5]furo[3,2-d]pyrimidine.
To a solution of 2,4,8-trichloro-benzo[4,5]furo[3,2-d]pyrimidine (1.0 g, 4.8 mmol) in ethanol (15 mL) was added K2CO3 (1.3 g, 9.6 mmol) followed by N-methylpiperazine (0.532 mL, 4.8 mmol). After 2 h, the reaction mixture was diluted with 1 N NaOH (30 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic layers were washed with 1 N NaOH (20 mL), dried, and concentrated to afford the desired product (1.03 g, 77%). 1H NMR (CDCl3): 8.10 (s, 1H), 7.55-7.49 (m, 2H), 4.13-4.11 (m, 4H), 2.59-2.56 (m, 4H), 2.36 (s, 3H).

reactant | 2,4,8-trichloro-benzo[4,5]furo[3,2-d]pyrimidine | 4.8 mmol, 1.0 g | ClC=1N=C(C2=C(N1)C1=C(O2)C=CC(=C1)Cl)Cl | C10H3Cl3N2O
reactant | K2CO3 | 9.6 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methylpiperazine | 4.8 mmol, 0.532 mL | CN1CCNCC1 | C5H12N2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | NaOH | 1 N, 30 mL | [OH-].[Na+]
product | 2,8-Dichloro-4-(4-methyl-piperazin-1-yl)-benzo[4,5]furo[3,2-d]pyrimidine | 1.03 g, 77% | ClC=1N=C(C2=C(N1)C1=C(O2)C=CC(=C1)Cl)N1CCN(CC1)C | C15H14Cl2N4O
